US07759363B2
Preparation of 2-(1-hydroxy-1-methylethyl)-1H-benzoimidazole-4-carboxylic acid
To a solution of 2,3-diaminobenzoic acid methyl ester (1.5 g, 9.2 mmol) in 4 M HCl (50 mL) was added 2-hydroxyisobutyric acid (2.87 g, 27.6 mmol). The mixture was stirred at ˜90° C. for 24 h. It was neutralized by use of aqueous sodium hydroxide solution to pH˜3, and concentrated to dryness. The residue was suspended in methanol, and filtered through a filter paper. The filtrate was concentrated and the residue was rinsed with ether. The remaining solid residue was dissolved in ethyl acetate, and washed with brine solution. After drying over MgSO4, the organic solution was evaporated in vacuo, yielding the title intermediate as a pale yellow oil (˜800 mg). The crude product was used in the next step without further purification. (m/z): [M+H]+ calcd for C11H12N2O3 221.09; found 221.1. 1H-NMR (CD3OD) δ (ppm) 7.8 (dd, 1H), 7.7 (dd, 1H), 7.2 (m, 1H), 1.3 (s, 6H).

reactant | 2,3-diaminobenzoic acid methyl ester | 9.2 mmol, 1.5 g | COC(C1=C(C(=CC=C1)N)N)=O | C8H10N2O2
reactant | 2-hydroxyisobutyric acid | 27.6 mmol, 2.87 g | OC(C(=O)O)(C)C | C4H8O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | HCl | 4 M, 50 mL | Cl | ClH
product | 2-(1-hydroxy-1-methylethyl)-1H-benzoimidazole-4-carboxylic acid | ˜800 mg | OC(C)(C)C1=NC2=C(N1)C=CC=C2C(=O)O | C11H12N2O3
